US06252082B1
30.1. Methyl 6-methyl-2-oxo-3-[[(phenylethoxy)-carbonyl]amino]-4-(phenylthio)-1,2-dihydropyridine-1-acetate
1.7 g (5.6 mmol) of methyl 3-amino-6-methyl-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate are treated with 1.2 ml (8.4 mmol) of phenylmethyl chloroformate under the conditions described in Example 3.

reactant | methyl 3-amino-6-methyl-2-oxo-4-(phenylthio)-1,2-dihydropyridine-1-acetate | 5.6 mmol, 1.7 g | NC=1C(N(C(=CC1SC1=CC=CC=C1)C)CC(=O)OC)=O | C15H16N2O3S
reactant | phenylmethyl chloroformate | 8.4 mmol, 1.2 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Methyl 6-methyl-2-oxo-3-[[(phenylethoxy)-carbonyl]amino]-4-(phenylthio)-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)NC(=O)OCCC1=CC=CC=C1)SC1=CC=CC=C1 | C24H24N2O5S
